US04053472
3.5 mg. of 2-[5-nitro-1-(2-acetoxyethyl)-2-imidazolyl]-benzimidazole are boiled for 1 hour in 8 ml. of ethanol with 4 ml. of concentrated aqueous hydrochloric acid. After concentrating the reaction mixture to dryness, the residue is digested with methanol. After vacuum-filtering, 226 mg. of 2-[5-nitro-1-(2-hydroxyethyl)-2-imidazolyl]-benzimidazole is obtained, m.p. 217°-219° C.

reactant | 2-[5-nitro-1-(2-acetoxyethyl)-2-imidazolyl]-benzimidazole | [N+](=O)([O-])C1=CN=C(N1CCOC(C)=O)C=1NC2=C(N1)C=CC=C2 | C14H13N5O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-[5-nitro-1-(2-hydroxyethyl)-2-imidazolyl]-benzimidazole | [N+](=O)([O-])C1=CN=C(N1CCO)C=1NC2=C(N1)C=CC=C2 | C12H11N5O3
